US07582781B2
(2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane
First, 0.21 g (5.10 mmol) of sodium hydride (60% content) was suspended in 3 mL of DMF, and the resulting suspension was cooled in ice. A solution of 0.53 g (2.19 mmol) of (2R,3R)-1-chloro-2-(2,4-difluorophenyl)butane-2,3-diol in 5 mL of DMF was added thereto, and stirring was performed for 1 hour. A solution of 0.64 g (2.85 mmol) of 1-(p-toluenesulfonyl)-1,2,4-triazole and 0.06 g (0.88 mmol) of triazole in 3 mL of DMF was added, and the reaction solution was stirred at 60° C. for 3 hours. Then, the resulting solution was cooled to room temperature, and 10 mL of water was added to stop the reaction. The resulting product was extracted with ethyl acetate (20 mL×2), and concentration was performed under reduced pressure. A quantitative analysis was performed by HPLC. Thereby, the title compound was obtained in a yield of 43% (HPLC conditions, column: CAPCELL PAK C18 TYPE MG manufactured by Shiseido Co. Ltd., mobile phase: acetonitrile/20 mM (potassium) phosphate buffer solution (pH=2.5)=2/8, flow rate: 1.0 mL/min, column temperature: 30° C., detector: UV 210 nm, retention time: 37 minutes). 1H-NMR (400 MHz, CDCl3) δ: 1.64 (d, 3H, J=5.6 Hz), 3.19 (q, 1H, J=5.6 Hz), 4.42 (d, 1H, J=14.6 Hz), 4.87 (d, 1H, J=14.6 Hz), 6.69-6.80 (m, 2H), 6.98-7.03 (m, 1H), 7.81 (s, 1H), 7.98 (s, 1H).

reactant | sodium hydride | 5.10 mmol, 0.21 g | [H-].[Na+]
reactant | (2R,3R)-1-chloro-2-(2,4-difluorophenyl)butane-2,3-diol | 2.19 mmol, 0.53 g | ClC[C@@]([C@@H](C)O)(O)C1=C(C=C(C=C1)F)F | C10H11ClF2O2
reactant | 1-(p-toluenesulfonyl)-1,2,4-triazole | 2.85 mmol, 0.64 g | C1(=CC=C(C=C1)S(=O)(=O)N1N=CN=C1)C | C9H9N3O2S
reactant | triazole | 0.88 mmol, 0.06 g | N1N=NC=C1 | C2H3N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | (2R,3S)-2-(2,4-Difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | yield of 43% | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
